US07417028B2
2. 6-o-Tolylnicotinaldehyde
To a stirred solution of 125 mg of the above compound (0.50 mmol) in THF (2.0 mL) under argon at −74° C. was added 220 μL of nBuLi solution in hexane (2.5 M, 0.55 mmol, 1.1 eq) over 5 min, the temperature not allowed to rise above −71° C. A light green solution formed, which became dark green after 30 min. After 45 min, 49.4 μL (0.61 mmol, 1.2 eq) of DMF was added and the reaction allowed to warm to −40° C. After 14 h, a bright orange solution had formed. The reaction was quenched with 10% citric acid and the mixture stirred rapidly for 20 min at room temperature. The resulting bright yellow solution was extracted twice with EtOAc. The organic extracts were combined, dried over MgSO4, filtered and concentrated to give a yellow oil. The crude mixture thus obtained was purified by silica gel chromatography using ethyl acetate/dichloromethane (1:24) as eluant, (2.5×10 cm column), to give white solid, mp 82-84° C., 90.3 mg, 91% yield.

reactant | nBuLi | 220 μL | [Li]CCCC
reactant | hexane | 0.55 mmol, 2.5 M, 1.1 eq | CCCCCC | C6H14
reactant | DMF | 0.61 mmol, 49.4 μL, 1.2 eq | CN(C)C=O | C3H7NO
reactant | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 6-o-Tolylnicotinaldehyde | 91% yield | C1(=C(C=CC=C1)C1=NC=C(C=O)C=C1)C | C13H11NO
